US05576322
2-(4-Hydroxypiperidino)-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline
A mixture comprising 339 mg of 2-chloro-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline, 500 mg of 4-hydroxypiperidine and 20 ml of N,N-dimethylformamide was heated under reflux for 5 hours and poured into 50 ml of water, followed by the addition of 50 ml of ethyl acetate. The obtained mixture was filtered to remove insolubles. The organic layer of the filtrate was dried over magnesium sulfate and concentrated under a reduced pressure to give a crystalline residue. This residue was washed with chloroform to give 145 mg of the title compound.

reactant | 2-chloro-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline | 339 mg | ClC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)C#N | C17H11ClN4O2
reactant | 4-hydroxypiperidine | 500 mg | OC1CCNCC1 | C5H11NO
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | water | 50 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-Hydroxypiperidino)-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline | 145 mg | OC1CCN(CC1)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)C#N | C22H21N5O3
